US06159929
3.1. Synthesis of (2R,3S)-2-hydroxy-3-methylpentanoic acid
To a solution of (-)-D-allo-isoleucine [1.00 g, 7.634 mmol, [α]D20 =-37°(5% in 6M HCl)] in 26 ml of 1N aq. H2SO4 at 2° was slowly added (ca. 12 h) a solution of NaNO2 (1.67 g, 24.13 mmol) in 26 ml of demineralised water. After stirring overnight at room temperature, 0.62 g of powdered NaHCO3 were added to bring the pH above 2. The solution was saturated with NaCl and extracted 6 times with ethyl acetate, maintaining the pH between 2 and 3 (1N aq. H2SO4, pH meter). After drying (Na2SO4), the organic layer was concentrated and the crude product (0.91 g, 91%) was directly used in the next step without further purification.

reactant | (-)-D-allo-isoleucine | 7.634 mmol, 6M, 1.00 g | N[C@H]([C@@H](C)CC)C(=O)O | C6H13NO2
reactant | NaNO2 | 24.13 mmol, 1.67 g | N(=O)[O-].[Na+]
reactant | NaHCO3 | 0.62 g | C(=O)(O)[O-].[Na+]
reactant | NaCl | [Na+].[Cl-]
solvent | H2SO4 | 1N, 26 ml | OS(=O)(=O)O | H2O4S
solvent | water | 26 ml | O | H2O
product | (2R,3S)-2-hydroxy-3-methylpentanoic acid | O[C@@H](C(=O)O)[C@H](CC)C | C6H12O3
